US05543409
Triethylamine (1.47 g) was added to 15 ml of a suspension containing 1.57 g of 2-aminomethyl-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane suspended in 1,3-dimethyl-2-imidazolidinone, and the mixture was stirred at room temperature for 10 minutes. Then, 0.83 g of butyryl chloride dissolved in 8 ml of tetrahydrofuran was added dropwise to the mixture, and the resulting mixture was stirred for 1 hour. The reaction mixture was poured into ice water, and crystals precipitated were collected by filtration. The crystals obtained were washed with water, dried and then recrystallized from ethyl acetate-methanol to obtain 1.47 g of 2-(butyrylamino)methyl-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | Triethylamine | 1.47 g | C(C)N(CC)CC | C6H15N
reactant | 2-aminomethyl-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 1.57 g | NCC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C14H17N3O
reactant | butyryl chloride | 0.83 g | C(CCC)(=O)Cl | C4H7ClO
solvent | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-(butyrylamino)methyl-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 1.47 g | C(CCC)(=O)NCC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C18H23N3O2
